US07482457B2
Step 1: 3-Methyloxy-2-phenyl-4-quinolinecarbonyl chloride
3-Methyloxy-2-phenylquinoline-4-carboxylic acid (200 mg, 0.72 mmol) [J. Med. Chem. 1999, 42, 1053-1065] was suspended in CH2Cl2 (5 mL) at 0° C. and oxalyl chloride (62 μL, 0.72 mmol) was added with stirring. After stirring at 0° C. for 1 h the cooling bath was removed and the solution allowed to stir at room temperature for 18 h. After this time the solvent was evaporated and the crude acid chloride used in the subsequent reaction without further purification.

reactant | 3-Methyloxy-2-phenylquinoline-4-carboxylic acid | 0.72 mmol, 200 mg | COC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C17H13NO3
reactant | oxalyl chloride | 0.72 mmol, 62 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-Methyloxy-2-phenyl-4-quinolinecarbonyl chloride | COC=1C(=NC2=CC=CC=C2C1C(=O)Cl)C1=CC=CC=C1 | C17H12ClNO2
